US04150137
A mixture of 1.73 g of 4-isobutylphenylacetonitrile and 10 g of 95% of 2,2,2-trifluoroethanol and 10 g of concentrated sulfuric acid were refluxed for 12 hours. After the reaction was complete, ice-water was added to the mixture. The resulting mixture was extracted with ether. The ether layer separated was dehydrated and concentrated to leave an oily residue. The residue was distilled in vacuo to give 1.4 g of 4-isobutylphenylacetic acid-2,2,2-trifluoroethyl ester as a pale yellow oil, boiling at 77°-79° C./1 mmHg. Analysis-Calculated for C14H17F3O2 : C, 61.30; H, 6.25. Found: C, 61.21; H, 6.23.

reactant | 4-isobutylphenylacetonitrile | 1.73 g | C(C(C)C)C1=CC=C(C=C1)CC#N | C12H15N
reactant | 2,2,2-trifluoroethanol | 10 g | FC(CO)(F)F | C2H3F3O
reactant | sulfuric acid | 10 g | S(O)(O)(=O)=O | H2O4S
product | 4-isobutylphenylacetic acid-2,2,2-trifluoroethyl ester | 1.4 g | FC(COC(CC1=CC=C(C=C1)CC(C)C)=O)(F)F | C14H17F3O2
